US08168668B2
22) 6-tert-butyl-2-chloronicotinonitrile
The title compound was synthesized according to the procedure described for the synthesis of 6-tert-butylnicotinonitrile starting from 2-chloronicotinonitrile (3.91 g, 28 mmol), pivalic acid (14.4 g, 141 mmol), AgNO3 (0.622 g, 3.66 mmol), (NH4)2S2O8 (8.36 g, 36.6 mmol) and 50 ml 10% H2SO4. Purified by normal phase chromatography using 100 heptane to 95/5 heptane/ethyl acetate. (Yield: 42%, 2.3 g). 1H NMR (400 MHz, CDCl3) δ ppm 1.34 (s, 9 H), 7.36 (d, J=8.20 Hz, 1 H), 7.88 (d, J=8.20 Hz, 1 H).

reactant | 6-tert-butylnicotinonitrile | C(C)(C)(C)C1=NC=C(C#N)C=C1 | C10H12N2
reactant | 2-chloronicotinonitrile | 28 mmol, 3.91 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | pivalic acid | 141 mmol, 14.4 g | C(C(C)(C)C)(=O)O | C5H10O2
catalyst | AgNO3 | 3.66 mmol, 0.622 g | [N+](=O)([O-])[O-].[Ag+]
solvent | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
product | 6-tert-butyl-2-chloronicotinonitrile | Yield: 42% | C(C)(C)(C)C1=NC(=C(C#N)C=C1)Cl | C10H11ClN2
